US09062092B2
A solution of (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoyloxy}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (100 mg, 0.11 mmol) in tetrahydrofuran (3 mL) was stirred at 0° C. under nitrogen. An ice-cold aqueous solution of sodium hydroxide (0.1 M, 1.1 mL, 0.11 mmol) was added and the reaction mixture was stirred at 0° C. for 20 min. Cold hydrochloric acid (1 M) was added to acidify the mixture to pH 2 and the solvent was evaporated. The residue was co-evaporated with tetrahydrofuran/toluene (1:1, 3×) and the residue was triturated with diethyl ether (2×) and the resulting solid was dried to afford (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoyloxy}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid (0.1 mmol) as a yellow solid which was used crude in the next reaction. LCMS (m/z) 704.3 [M+H], Tr=2.61 min. A mixture of crude (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoyloxy}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid (0.1 mmol) in hydrochloric acid (4 M in 1,4-dioxane, 2 mL) was stirred at room temperature for 30 min. The solvent was evaporated and the residue was co-evaporated with diethyl ether (2×) and the resulting solid was dried to afford (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-amino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoyloxy}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid hydrochloride (0.1 mmol) as an off-white solid which was used crude in the next reaction. LCMS (m/z) 604.3 [M+H], Tr=1.53 min. A suspension of crude (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-amino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoyloxy}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid hydrochloride (0.1 mmol) in dichloromethane (100 mL) was stirred at 0° C. under nitrogen. A solution of N,N-diisopropylethylamine (52 mg, 0.07 mL, 0.4 mmol) in dichloromethane (5 mL) was added and the resulting solution was stirred at 0° C. 2-(1H-7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (76 mg, 0.2 mmol) was added and the reaction mixture was stirred at 0° C. for 30 min and then at room temperature for 18 h. The solvent was partially evaporated to a volume of ˜30 mL. The solution was washed with ice-cold saturated sodium hydrogen carbonate solution, ice-cold hydrochloric acid (1 M) and brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography eluting with a gradient of iso-hexanes/ethyl acetate 1:1 to 0:1 followed silica gel chromatography eluting with iso-hexanes/acetone 3:2. The residue was triturated with diethyl ether and the resulting solid was dried to afford the title compound (4 mg, 7% over 3 steps) as a white solid. 1H NMR (300 MHz, CD3OD) δ 1.01 (d, J=6.5 Hz, 3H), 1.09 (d, J=6.9 Hz, 3H), 1.49-1.55 (m, 2H), 1.61 (d, J=6.9 Hz, 3H), 1.64 (d, J=7.1 Hz, 3H), 1.93-1.98 (m, 1H), 2.15-2.28 (m, 2H), 2.68-2.76 (m, 1H), 3.59-3.63 (m, 1H), 4.41-4.46 (m, 1H), 4.70-5.13 (m, 5H), 5.35 (d, J=8.9 Hz, 1H), 5.84 (q, J=7.1 Hz, 1H), 6.27 (d, J=16.5 Hz, 1H), 6.81 (d, J=16.5 Hz, 1H), 7.49 (d, J=7.9 Hz, 1H), 7.70 (dd, J=8.5, 1.6 Hz, 1H), 7.82 (br s, 1H), 7.88 (d, J=8.5 Hz, 1H), 8.28 (d, J=8.5 Hz, 1H). LCMS (m/z) 586.2 [M+H], Tr=2.48 min.

reactant | (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoyloxy}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid | 0.1 mmol | C(C)(C)(C)OC(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C(C(=O)O[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)O)C)C(C)C)(CF)CF | C35H47F2N5O8
reactant | hydrochloric acid | 4 M, 2 mL | Cl | ClH
product | (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-amino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoyloxy}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid hydrochloride | 0.1 mmol | Cl.N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C(C(=O)O[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)O)C)C(C)C)(CF)CF | InChI=1S/C30H39F2N5O6.ClH/c1-17(2)25(26(38)34-19(4)27(39)37-13-5-6-23(36-37)28(40)41)43-29(42)30(15-31,16-32)12-11-20-7-8-21-9-10-22(18(3)33)35-24(21)14-20;/h7-12,14,17-19,23,25,36H,5-6,13,15-16,33H2,1-4H3,(H,34,38)(H,40,41);1H/b12-11+;/t18-,19+,23+,25+;/m1./s1
